US07435823B2
Preparation of 1-methyl-4-[(4-nitrophenyl)acetyl]piperazine
4-Nitrophenylacetic acid (2.00 g, 0.011 mol) was dissolved in anhydrous THF (20 mL) with gradual addition of thionyl chloride (1.03 mL, 0.0143 mol) and a catalytic amount of DMF (2 drops) at RT and stirred for 24 h. On completion, the reaction was quenched in situ with N-methylpiperazine (3.85 g, 0.038 mol) added dropwise in a solution of DCM (20 mL) at RT and stirred overnight to give a beige suspension. The solvent was removed in vacuo and the residue partitioned between DCM (30 mL) and sodium hydroxide (1N, 30 mL). The organic layer was washed twice, dried over sodium sulphate and filtered. Removal of the solvent in vacuo yielded the title compound as an amber oil, 1.50 g (solidified on standing).

reactant | 4-Nitrophenylacetic acid | 0.011 mol, 2.00 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | thionyl chloride | 0.0143 mol, 1.03 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylpiperazine | 0.038 mol, 3.85 g | CN1CCNCC1 | C5H12N2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 1-methyl-4-[(4-nitrophenyl)acetyl]piperazine | CN1CCN(CC1)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O3
